US05246948
Synthesis of 4-(3-nicotinoylaminopropyloxy)pyridine
To a solution of 700 mg (4.60 mmol) of 4-(3-aminopropyloxy)pyridine and 1.54 ml (11.0 mmol) of triethylamine in 30 ml of methylene chloride, 830 mg (4.66 mmol) of nicotinoyl chloride hydrochloride was added under ice-cooling with stirring. The mixture was stirred at room temperature for 1.5 hours. The reaction mixture was washed successively with a saturated aqueous solution of sodium bicarbonate and brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off. The residue was purified by column chromatography (eluent: ethanol/ethyl acetate=1:10 to 1:5) to obtain 1.05 g of the desired compound (yield: 85.8%, colorless crystals).

reactant | 4-(3-aminopropyloxy)pyridine | 4.60 mmol, 700 mg | NCCCOC1=CC=NC=C1 | C8H12N2O
reactant | triethylamine | 11.0 mmol, 1.54 ml | C(C)N(CC)CC | C6H15N
reactant | nicotinoyl chloride hydrochloride | 4.66 mmol, 830 mg | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-(3-nicotinoylaminopropyloxy)pyridine | 1.05 g, yield: 85.8% | C(C1=CN=CC=C1)(=O)NCCCOC1=CC=NC=C1 | C14H15N3O2
